US09290451B2
N-(1-Amino-2-methyl-1-oxobutan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 2-amino-2-methyl-butanamide (CAN 59209-90-4) as starting materials, LC-MS (UV peak area/ESI) 96%, 332.1982 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 2-amino-2-methyl-butanamide | NC(C(=O)N)(CC)C | C5H12N2O
product | N-(1-Amino-2-methyl-1-oxobutan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide | NC(C(CC)(C)NC(C1=NC(=C(C=C1)C1CC1)OCC1CC1)=O)=O | C18H25N3O3
